US08466282B2
Butyl 4-(4-methoxybutyl)-5-phenyl-4H-1,2,4-triazole-3-carboxylate
Ethyl [(4-methoxybutyl)amino](thioxo)acetate (1.2 g) and benzohydrazide (745 mg) were dissolved in 1-butanol (10 ml), to and the mixture was stirred at 140° C. for 15 hr. The reaction mixture was cooled to room temperature, 10% aqueous citric acid solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (8:2) was concentrated under reduced pressure to give the object product (80 mg).

reactant | Ethyl [(4-methoxybutyl)amino](thioxo)acetate | 1.2 g | COCCCCNC(C(=O)OCC)=S | C9H17NO3S
reactant | benzohydrazide | 745 mg | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 1-butanol | 10 ml | C(CCC)O | C4H10O
product | Butyl 4-(4-methoxybutyl)-5-phenyl-4H-1,2,4-triazole-3-carboxylate | 80 mg | COCCCCN1C(=NN=C1C1=CC=CC=C1)C(=O)OCCCC | C18H25N3O3
